US04287341
A. 2-(3-Thiazolidinyl)-4-amino-7,8-dimethoxyquinazoline Hydrochloride
A mixture of 4.8 g. (0.02 mole) of 4-amino-2-chloro-7,8-dimethoxyquinazoline and 4.5 g. (0.05 mole) of thiazolidine in 50 ml. of chlorobenzene is heated at reflux for 18 hours, cooled to room temperature and the precipitate collected by filtration to give the title compound which was purified by recrystallization.

reactant | 4-amino-2-chloro-7,8-dimethoxyquinazoline | 0.02 mole | NC1=NC(=NC2=C(C(=CC=C12)OC)OC)Cl | C10H10ClN3O2
reactant | thiazolidine | 0.05 mole | S1CNCC1 | C3H7NS
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | 2-(3-Thiazolidinyl)-4-amino-7,8-dimethoxyquinazoline Hydrochloride | Cl.S1CN(CC1)C1=NC2=C(C(=CC=C2C(=N1)N)OC)OC | InChI=1S/C13H16N4O2S.ClH/c1-18-9-4-3-8-10(11(9)19-2)15-13(16-12(8)14)17-5-6-20-7-17;/h3-4H,5-7H2,1-2H3,(H2,14,15,16);1H
